US09284284B2
e) 5-(5-Bromo-2-fluoro-phenyl)-5-hydroxymethyl-morpholin-3-one
A mixture of N-[1-(5-bromo-2-fluoro-phenyl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide (6.34 g, 18.62 mmol) and potassium tert.-butoxide (2.09 g, 18.62 mmol) in 62 ml tBuOH was refluxed for 30 min. 19 ml 1 N HCl and water were added and the aqueous layer was extracted with EtOAc. The organic layer was washed with brine, dried with MgSO4 and evaporated. The crude product was recrystallized in Hex/EtOAc to provide the title compound as an off-white solid.

reactant | N-[1-(5-bromo-2-fluoro-phenyl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide | 18.62 mmol, 6.34 g | BrC=1C=CC(=C(C1)C(CO)(CO)NC(CCl)=O)F | C11H12BrClFNO3
reactant | potassium tert.-butoxide | 18.62 mmol, 2.09 g | CC(C)([O-])C.[K+]
reactant | HCl | 1 N, 19 ml | Cl | ClH
reactant | water | O | H2O
solvent | tBuOH | 62 ml | CC(C)(C)O | C4H10O
product | 5-(5-Bromo-2-fluoro-phenyl)-5-hydroxymethyl-morpholin-3-one | BrC=1C=CC(=C(C1)C1(COCC(N1)=O)CO)F | C11H11BrFNO3
